US09302989B2
tert-butyl 4-(N-(4-fluorobenzyl)-3-methylbutanamido)butylcarbamate
The title compound was prepared as described in Example 278, substituting 3-methylbutanoyl chloride for acetyl chloride and tert-butyl 4-(4-fluorobenzylamino)butylcarbamate for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 4-(4-fluorobenzylamino)butylcarbamate | FC1=CC=C(CNCCCCNC(OC(C)(C)C)=O)C=C1 | C16H25FN2O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | tert-butyl 4-(N-(4-fluorobenzyl)-3-methylbutanamido)butylcarbamate | FC1=CC=C(CN(C(CC(C)C)=O)CCCCNC(OC(C)(C)C)=O)C=C1 | C21H33FN2O3
